US07064143B1
4-Benzyloxy-1-methyl-1H-indole-2-carboxylic acid
To a stirred solution of ethyl 4-benzyloxy-1-methyl-1H-indole-2-carboxylate (3.09 g) in THF (200 mL) was added LiOH.H2O (1.26 g) in water (200 mL) and the resulting two phase solution was heated at 45° C. under nitrogen overnight. The cooled reaction mixture was evaporated to remove THF and the remaining aqueous solution was acidified with NaHSO4 to precipitate the title compound, which was collected, washed with water, and dried to give 2.87 g of the title compound. M.P. 216.6–216.8° C.

reactant | ethyl 4-benzyloxy-1-methyl-1H-indole-2-carboxylate | 3.09 g | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C19H19NO3
reactant | LiOH.H2O | 1.26 g | O[Li].O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 4-Benzyloxy-1-methyl-1H-indole-2-carboxylic acid | 2.87 g | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
